US08461134B2
A solution of methyl 2-(2-bromo-5-nitrophenyl)acetate (14 g, 51 mmol) in THF (150 mL) was cooled to 0° C., then MeOH (15 ml) was added slowly, followed by stirring at room temperature overnight. Water was added to terminate the reaction. The aqueous layer was extracted with ethyl acetate 3 times. The combined organic phase was washed with brine, dried over sodium sulfate and concentrated to give 2-(2-bromo-5-nitrophenyl)ethanol (12 g, yield 96%). 1H NMR: 400 MHz CDCl3 δ 8.18-8.17 (m, 1H), 8.18-8.17 (m, 1H), 7.96-7.93 (m, 1H), 7.74-7.72 (m, 1H), 3.97-3.94 (m, 2H), 3.13-3.10 (m, 2H).

reactant | methyl 2-(2-bromo-5-nitrophenyl)acetate | 51 mmol, 14 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])CC(=O)OC | C9H8BrNO4
reactant | MeOH | 15 ml | CO | CH4O
reactant | Water | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-(2-bromo-5-nitrophenyl)ethanol | 12 g, yield 96% | BrC1=C(C=C(C=C1)[N+](=O)[O-])CCO | C8H8BrNO3
